US05175166
5-Acetoxy-1,4,5,6-tetrahydropyrimidine HCl
5-Hydroxy-1,4,5,6-tetrahydropyrimidine (JOC, 1966, 31, 3838; 1 g, 10 mmol) was dissolved in glacial acetic acid (25 ml) with stirring, and thionylchloride (0.73 ml, 5 10 mmol) was added dropwise. The resulting solution was refluxed 19 hours, then evaporated to dryness in vacuo. The residue was taken up in water (5 ml), the pH adjusted to 12 (sat. Na2CO3), and extracted with chloroform. The chloroform was dried (MgSO4) and evaporated in vacuo to 440 mg (25%) product as a clear oil identified by 400 MHz nmr. The oil was converted to its HCl salt in anhydrous ethanol with addition of IM HCl in ether. After evaporation of solvents the resulting crude HCl salt was recrystallized from ethanol to yield 128 mg (7%) white crystals, mp 287°-289° C. 400 MHz nmr and ir confirmed product.

reactant | 5-Hydroxy-1,4,5,6-tetrahydropyrimidine | 10 mmol, 1 g | OC1CN=CNC1 | C4H8N2O
reactant | thionylchloride | 10 mmol, 0.73 ml | S(=O)(Cl)Cl | Cl2OS
reactant | acetic acid | 25 ml | C(C)(=O)O | C2H4O2
product | 5-Acetoxy-1,4,5,6-tetrahydropyrimidine HCl | 128 mg, 7% | Cl.C(C)(=O)OC1CN=CNC1 | InChI=1S/C6H10N2O2.ClH/c1-5(9)10-6-2-7-4-8-3-6;/h4,6H,2-3H2,1H3,(H,7,8);1H
